US08753857B2
4-Methoxy-3-thioureido-benzamide
To a solution of 3-amino-4-methoxybenzamide (2.49 g, 15.0 mmol, Alfa) in acetone (30 mL) at reflux was added benzoyl isothiocyanate (2.22 mL, 16.5 mmol) and the mixture was stirred at reflux for 30 min, then was poured into water. The precipitate was collected by vacuum filtration and was treated with 10% aq. NaOH (15 mL). The mixture was heated to reflux for 40 min, cooled to room temperature, and poured into a mixture of ice and 6 N aq. HCl. The mixture was basified to pH 10 with conc. aq. NH4OH and the resulting white solid precipitate was collected by vacuum filtration, affording the crude title compound, which was used without further purification.

reactant | 3-amino-4-methoxybenzamide | 15.0 mmol, 2.49 g | NC=1C=C(C(=O)N)C=CC1OC | C8H10N2O2
reactant | benzoyl isothiocyanate | 16.5 mmol, 2.22 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | water | O | H2O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 4-Methoxy-3-thioureido-benzamide | COC1=C(C=C(C(=O)N)C=C1)NC(=S)N | C9H11N3O2S
